US08389508B2
To a solution of ethyl 3-{4-[2-ethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-piperidinyl}propanoate (D123) (200 mg, 0.481 mmol), 3-bromo-5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazole (D43) (161 mg, 0.481 mmol) and Pd(Ph3P)4 (55.6 mg, 0.048 mmol) was added tripotassium phosphate (307 mg, 1.444 mmol) under nitrogen. The solution was sealed for Biotage microwave irradiation at 120° C. for 20 min. To the resulted solution, Isopropanol (10 mL) and water (2 mL) and then sodium hydroxide (0.5 mL, 3.05 mmol) was added. This solution was stirred at 50° C. for 2 hr. The solution was neutralized with AcOH, dried, dissolved in DMF and purified by Mass Directed AutoPrep to afford 3-{4-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]-1-piperidinyl}propanoic acid (E100) (40 mg).

reactant | ethyl 3-{4-[2-ethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-piperidinyl}propanoate | 0.481 mmol, 200 mg | C(C)C1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)C1CCN(CC1)CCC(=O)OCC | C24H38BNO4
reactant | 3-bromo-5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazole | 0.481 mmol, 161 mg | BrC1=NSC(=N1)C1=CC(=C(C=C1)OC(C)C)Cl | C11H10BrClN2OS
reactant | tripotassium phosphate | 1.444 mmol, 307 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | sodium hydroxide | 3.05 mmol, 0.5 mL | [OH-].[Na+]
catalyst | Pd(Ph3P)4 | 0.048 mmol, 55.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | AcOH | CC(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
solvent | Isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 3-{4-[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]-1-piperidinyl}propanoic acid | 40 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)C1CCN(CC1)CCC(=O)O)CC | C27H32ClN3O3S
